US05166406
tert-Butyl 2-(2-methoxyethoxymethyl)acrylate
To a solution of tert-butyl 2-(bromomethyl)acrylate (2.0 g, 9.0 mmol) in 2-methoxyethanol (30 ml) at 0° C. was added, in one portion, potassium carbonate (2.5 g, 18 mmol) and the mixture stirred at 0° C. for 1 hour. The reaction was diluted with distilled water (100 ml) and extracted with dichloromethane (100 ml). The layers were separated and the aqueous layer further extracted with dichloromethane (2×50 ml). The combined organic extracts were dried over magnesium sulphate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on silica by eluting with hexane/ethyl acetate (2:1) to give, after combination and evaporation of appropriate fractions, the title compound as a yellow oil, (1.6 g, 82%). Rf. 0.32 (silica, hexane/ethyl acetate, 2:1). 1H-NMR (300 MHz, CDCl3) 1.50 (s, 9H), 3.42 (s, 3H) , 3.56-3.63 (m, 2H), 3.65-3.74 (m, 2H), 4.25 (s, 2H), 5.84 (s, 1 H), 6.25 (s, 1H) ppm.

reactant | tert-butyl 2-(bromomethyl)acrylate | 9.0 mmol, 2.0 g | BrCC(C(=O)OC(C)(C)C)=C | C8H13BrO2
reactant | potassium carbonate | 18 mmol, 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-methoxyethanol | 30 ml | COCCO | C3H8O2
solvent | water | 100 ml | O | H2O
product | tert-Butyl 2-(2-methoxyethoxymethyl)acrylate | COCCOCC(C(=O)OC(C)(C)C)=C | C11H20O4
